US05783690
N-Methyl-N-trifluoroacetylaminoethanol
Trifluoroacetic acid (10 ml; 129 mmol) was added to a stirred solution of N-methylaminoethanol (9.72 g; 129 mmol) in p-xylene (10 ml) at 0° C. The mixture was heated under reflux for 12 hours, then allowed to cool and stand at room temperature overnight. All the volatiles were removed and the product distilled under high vacuum to afford the product as a clear liquid. Yield 9.8 g (44%); b.p. 110° C./1 mm.

reactant | Trifluoroacetic acid | 129 mmol, 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-methylaminoethanol | 129 mmol, 9.72 g | CNC(C)O | C3H9NO
solvent | p-xylene | 10 ml | CC=1C=CC(=CC1)C | C8H10
product | N-Methyl-N-trifluoroacetylaminoethanol | CN(C(C(F)(F)F)=O)C(C)O | C5H8F3NO2
